US06610518B2
4-tert-Butyl-benzene sulphonyl chloride (286 mg) was added to a stirred solution of 4-amino-6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-pyrimidine (EP 713875A1) (100 mg) in dry pyridine (2 ml) at room temperature and the resulting mixture stirred for 36 hours. The reaction was then partitioned between ethyl acetate (20 ml) and 2N aqueous hydrochloric acid (10 ml) and the organic phase separated, washed (2N aqueous hydrochloric acid 2×10 ml, water 2×10 ml), dried (MgSO4) and evaporated under reduced pressure. Column chromatography on silica eluting with a solvent gradient of pentane:ethyl acetate 25:75 changing to 0:100, then dichloromethane:methanol 95:5 gave 4-tert-butyl-N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]benzenesulfonamide as an off-white coloured solid (5 mg).

reactant | 4-tert-Butyl-benzene sulphonyl chloride | 286 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | 4-amino-6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-pyrimidine | 100 mg | NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=NC=CC=N1 | C16H15N5O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-tert-butyl-N-[6-methoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]benzenesulfonamide | 5 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=NC=CC=N1 | C26H27N5O5S
